US04599203
A solution of 51.2 g of 8-amino-1,3,6-naphthalenetrisulfonic acid disodium salt in 120 ml of water containing 21.0 ml of 5N sodium hydroxide was warmed and filtered. The filtrate was slowly diluted with 400 ml of ethanol, stirred and allowed to cool to room temperature. The solid was collected, washed with ethanol, then ether and dried, giving 46.0 g of 8-amino-1,3,6-naphthalenetrisulfonic acid, trisodium salt.

reactant | 8-amino-1,3,6-naphthalenetrisulfonic acid disodium salt | 51.2 g | [Na+].[Na+].NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 8-amino-1,3,6-naphthalenetrisulfonic acid | 46.0 g | NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO9S3
